US07935674B2
3-(Benzo[b]furan-5-yl-methyl)-4,6-dichloro-1-(β-D-gluco-pyranosyl)indole
4,6-Dichloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 28-(3) and benzo[b]furan-5-carbonyl chloride were treated in a manner similar to Example 3 to give the titled compound as a colorless powder. APCI-Mass m/Z 478/480 (M+H). 1H-NMR (DMSO-d6) δ 3.20-3.50 (m, 4H), 3.59 (m, 1H), 3.67 (m, 1H), 4.34 (s, 2H), 4.55 (t, J=5.7 Hz, 1H), 5.11 (d, J=5.1 Hz, 1H), 5.16 (d, J=5.1 Hz, 1H), 5.24 (d, J=5.8 Hz, 1H), 5.46 (d, J=9.0 Hz, 1H), 6.87 (d, J=1.4 Hz, 1H), 7.11 (d, J=1.6 Hz, 1H), 7.19 (dd, J=8.5, 1.4 Hz, 1H), 7.33 (s, 1H), 7.42 (s, 1H), 7.49 (d, J=8.3 Hz, 1H), 7.73 (d, J=1.6 Hz, 1H), 7.93 (d, J=2.1H, z, 1H).

reactant | 4,6-Dichloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | ClC1=C2C=CN(C2=CC(=C1)Cl)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H23Cl2NO9
reactant | benzo[b]furan-5-carbonyl chloride | O1C2=C(C=C1)C=C(C=C2)C(=O)Cl | C9H5ClO2
product | 3-(Benzo[b]furan-5-yl-methyl)-4,6-dichloro-1-(β-D-gluco-pyranosyl)indole | O1C2=C(C=C1)C=C(C=C2)CC2=CN(C1=CC(=CC(=C21)Cl)Cl)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C23H21Cl2NO6
